US07259266B2
Step 2. Preparation of ethyl 6-bromo-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of 5-bromo-2-hydroxy-3-methoxybenzaldehyde (1.40 g, 6.51 mmole), K2CO3 (1.80 g, 13.02 mmole), triethylamine (2.63 g, 26.05 mmole), and ethyl 4,4,4-trifluorocrotonate (4.38 g, 26.05 mmole) in anhydrous DMSO (5.0 mL) was heated to 90 ° C. under a dry N2 atmosphere for 18 hrs. The contents were poured into 2.4 N HCl (50 ml) and extracted with EtOAc (2×100 mL). The combined extracts were washed with brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give a dark yellow oil which was subject to flash chromatography (silica gel) and eluted with 10% EtOAc in hexanes to give a yellow solid (1.6 g, 68%). GCMS m/z 364.0 (M+). 1H NMR (CDCl3/400 MHz) 7.59 (s, 1H), 7.27 (s, 1H), 7.16 (s, 1H), 5.70 (q, 1H, J=7.0 Hz), 4.29 (m, 2H), 2.19 (s, 3H), 1.32 (m, 3H).

reactant | 5-bromo-2-hydroxy-3-methoxybenzaldehyde | 6.51 mmole, 1.40 g | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
reactant | K2CO3 | 13.02 mmole, 1.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 26.05 mmole, 2.63 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4,4,4-trifluorocrotonate | 26.05 mmole, 4.38 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | HCl | 2.4 N, 50 ml | Cl | ClH
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
product | ethyl 6-bromo-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.6 g, 68% | BrC=1C=C2C=C(C(OC2=C(C1)C)C(F)(F)F)C(=O)OCC | C14H12BrF3O3
